US08202856B2
[1-(4-{5-[1(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)piperidin-4-yl]methanol
The title compound was prepared following the procedure described for Example 94, but starting from 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde, obtained as described in Example 113, Step 1, (100 mg; 0.24 mmol) and 4-hydroxymethylpiperidine (55.9 mg; 0.48 mmol) to give Example 139 as a white solid. 1H NMR: (DMSO-d6, 400 MHz) δ 8.75 (2H, dd, J=4.48, 1.64 Hz), 7.97-7.86 (3H, m), 7.76-7.69 (1H, m), 7.61 (2H, dd, J=4.5, 1.7 Hz), 7.55-7.48 (4H, m), 4.43 (1H, t, J=5.3 Hz), 3.55 (2H, s), 3.28 (2H, t, J=5.8 Hz), 2.84 (2H, d, J=10.8 Hz), 1.96 (2H, t, J=11.3 Hz), 1.66 (2H, d, J=12.6 Hz), 1.37 (1H, d, J=10.8 Hz), 1.25-1.12 (2H, m). LC/MS (Method C): 512 (M+H)+. HPLC (Method E) Rt 2.16 min (Purity: 99.2%).

reactant | 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C22H13FN6O2
reactant | 4-hydroxymethylpiperidine | 0.48 mmol, 55.9 mg | OCC1CCNCC1 | C6H13NO
product | [1-(4-{5-[1(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)piperidin-4-yl]methanol | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(CN2CCC(CC2)CO)C=C1 | C28H26FN7O2
